US06610321B2
Synthesis of Cationic Derivatives of Cholesterol
3-β-[N(N′,N′,N′-trimethylethane)carbamoyl]cholesterol (TC-Chol), a quaternary ammonium derivative of Chol, was synthesized by methylation of DC-Chol with iodomethane.

reactant | DC-Chol | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)OC(=O)NCCN(C)C)C)C.Cl
reactant | iodomethane | IC | CH3I
product | Cholesterol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
